* sw ring-oscillators

.control
destroy all
run
plot I(vmeasure) I(vmeasure2)
print I(vmeasure) I(vmeasure2)
*plot V(N001)  V(N002)
rusage 
.endc

*.ic v(N017)=0.25
*.tran 50p 40n 50p uic
.dc Vin 0 3 0.01
*.option method=gear maxord=3

Vin N001 0 0

VDD VDD2 0 DC 3

VMEASURE VDD2 N002 dc 0
VMEASURE2 VDD2 N004 dc 0

aa1 N001 %gd(N002 0) switch3
.model switch3 aswitch(cntl_off=1.1 cntl_on=0.9 r_off=1e12
+ r_on=1k log=TRUE limit=TRUE)

aa2 N001 %gd(N002 0) switch4
.model switch4 aswitch(cntl_off=1.9 cntl_on=2.3 r_off=1e12
+ r_on=1k log=TRUE limit=TRUE)

ap1 N001 0 %gd(N004 0) switch5
.model switch5 pswitch(cntl_off=1.1 cntl_on=0.9 r_off=1e12
+ r_on=1k log=TRUE)

ap2 N001 0 %gd(N004 0) switch6
.model switch6 pswitch(cntl_off=1.9 cntl_on=2.3 r_off=1e12
+ r_on=1k log=TRUE)

*sw N002 0 N001 0 swn
*.MODEL SWN VSWITCH ( VON = 1.1 VOFF = 0.9 RON=1k  ROFF=1e12 )

*.include switch-invs.lib

.end
